US06353111B1
A solution of 2-chloro-4-iodobenzyl bromide (4.82 g, 14.54 mmol) in N,N-dimethylformamide (30 mL) was treated with sodium thiomethoxide (2.04 g, 29.08 mmol). After the addition, the solution became cloudy and turned to a yellow color. The resulting reaction mixture was stirred for 3 h at 25° C. The reaction mixture was then diluted with ethyl acetate (100 mL). The organic layer was washed successively with water (2×100 mL) and a saturated aqueous sodium chloride solution (1×100 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to afford 2-chloro-4-iodobenzyl methyl sulfide (4.24 g, 97%) as a colorless oil which was used without further purification: EI-HRMS m/e calcd for C8H8CIIS (M+) 297.9080, found 297.9078.

reactant | 2-chloro-4-iodobenzyl bromide | 14.54 mmol, 4.82 g | ClC1=C(CBr)C=CC(=C1)I | C7H5BrClI
reactant | sodium thiomethoxide | 29.08 mmol, 2.04 g | C[S-].[Na+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-chloro-4-iodobenzyl methyl sulfide | 4.24 g, 97% | CSCC1=C(C=C(C=C1)I)Cl | C8H8ClIS
